.title ACsim
.include mymodel.cir
.include include.cir

V1 SUP 0 51 
V2 IN 0 AC 0.004
RLoad OUT 0 47k
Rleak_IN IN 0 100Meg 
Rleak_OUT OUT 0 100Meg

.control
    set filetype=ascii
    op
    print v(/TR401B) v(/TR401C_TR403B) v(/TR401E) v(/TR403C_TR405C_TR407B) v(/TR403E_TR405B) v(/TR405E) v(/TR407E) v(/TR407C)
    print @qtr401[ic] @qtr403[ic] @qtr405[ic] @qtr407[ic]
    print @qtr401[ib] @qtr403[ib] @qtr405[ib] @qtr407[ib]
    print @qtr401[ie] @qtr403[ie] @qtr405[ie] @qtr407[ie]

    * =========================================================
    * AC analysis
    * =========================================================
    ac dec 300 10 50k

    * =========================================================
    * Export raw data for Python
    * =========================================================
    wrdata sim_ac.csv frequency v(out) v(in)
    quit
.endc

.end
